US05527791
t-Butyl 3-nitrobenzyloxyacetate (5 g, 18.7 mM) was dissolved in formic acid (50 ml) and stirred at ambient temperature for 48 hours. Solvents were removed to give 3-nitrobenzyloxyacetic acid (3.9 g, 98%). NMR (DMSO-d6): δ4.15 (s, 2H); 4.69 (s, 2H); 7.66 (t, 1H); 7.81 (d, 1H); 8.13-8.22 (m, 2H); 12.73 (br, 1H).

reactant | t-Butyl 3-nitrobenzyloxyacetate | 18.7 mM, 5 g | [N+](=O)([O-])C=1C=C(COCC(=O)OC(C)(C)C)C=CC1 | C13H17NO5
solvent | formic acid | 50 ml | C(=O)O | CH2O2
product | 3-nitrobenzyloxyacetic acid | 3.9 g, 98% | [N+](=O)([O-])C=1C=C(COCC(=O)O)C=CC1 | C9H9NO5
